US05958375
a. 3-Nitro-5-(2,3-dihydroxypropylaminocarbonyl)phenylaminocarbonyl-[3'-nitro-5'-(2,3-dihydroxypropylaminocarbonyl)benzene]
3-Nitro-5-methoxycarbonylphenylaminocarbonyl-(3'-nitro-5'-methoxycarbonylbenzene) (1.21 g, 3.0 mmol) was suspended in aminopropan-2,3-diol (0.55 g, 6.0 mmol) and the mixture was heated to 90° C. After 30 min, the pressure was reduced to 200 mm Hg and heating was continued for 90 min. The product was purified by preparative HPLC. Yield: 0.73 g (47%).

reactant | 3-Nitro-5-methoxycarbonylphenylaminocarbonyl-(3'-nitro-5'-methoxycarbonylbenzene) | 3.0 mmol, 1.21 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)OC)NC(=O)C1=CC(=CC(=C1)C(=O)OC)[N+](=O)[O-] | C17H13N3O9
reactant | aminopropan-2,3-diol | 6.0 mmol, 0.55 g | NCC(CO)O | C3H9NO2
product | 3-Nitro-5-(2,3-dihydroxypropylaminocarbonyl)phenylaminocarbonyl-[3'-nitro-5'-(2,3-dihydroxypropylaminocarbonyl)benzene] | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NCC(CO)O)NC(=O)C1=CC(=CC(=C1)C(=O)NCC(CO)O)[N+](=O)[O-] | C21H23N5O11
